US05286869
Isopropyl (E)-3-[4-(1-imidazolylmethyl)phenyl]-2-propen-1-yl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)pyridine-3,5-dicarboxylate:
360 mg (1 mM) of 1,4-dihydro-2,6-dimethyl-5-isopropyloxycarbonyl-4-(3- nitrophenyl)pyridine -3carboxylic acid together with 215 mg (1 mM) of (E)-3-{4-(1-imidazolylmethyl)phenyl}-2-propen-1-ol, 248 mg (1.2 mM) of dicyclohexylcarbodiimide and 134 mg (1.1 mM) of 4-N,N-dimethylaminopyridine were dissolved in 5 ml of toluene, while heating, and refluxed for six hours. The solution was cooled to room temperature, and the crystals produced were filtered off. The filtrate was washed with water and dried over anhydrous sodium sulfate. After the solvent was distilled away, the residue was purified by chromatography on a silica gel column, whereby the captioned compound was obtained. The yield was 541 mg (97.2%).

reactant | 1,4-dihydro-2,6-dimethyl-5-isopropyloxycarbonyl-4-(3- nitrophenyl)pyridine -3carboxylic acid | 1 mM, 360 mg | CC=1NC(=C(C(C1C(=O)O)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC(C)C)C | C18H20N2O6
reactant | (E)-3-{4-(1-imidazolylmethyl)phenyl}-2-propen-1-ol | 1 mM, 215 mg | N1C(=NC=C1)CC1=CC=C(C=C1)/C=C/CO | C13H14N2O
reactant | dicyclohexylcarbodiimide | 1.2 mM, 248 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | Isopropyl (E)-3-[4-(1-imidazolylmethyl)phenyl]-2-propen-1-yl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)pyridine-3,5-dicarboxylate | CC=1NC(=C(C(C1C(=O)OC(C)C)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC\C=C\C1=CC=C(C=C1)CC=1NC=CN1)C | C31H32N4O6
